US04032527
Condensation of 2-(2-acetamido-4-(dimethylamino)benzoyl)benzoic acid and N,N,N',N'-tetramethyl-m-phenylenediamine by the method of part B of Example 1 affords 3-(2,4-bis(dimethylamino)phenyl)-3-(2-acetamido-4-(dimethylamino)-phenyl)phthalide, the compound of part A of this example.

reactant | 2-(2-acetamido-4-(dimethylamino)benzoyl)benzoic acid | C(C)(=O)NC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(C)C | C18H18N2O4
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
product | 3-(2,4-bis(dimethylamino)phenyl)-3-(2-acetamido-4-(dimethylamino)-phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(C)C)NC(C)=O)C | C28H32N4O3
